US07531532B2
After adding 20% palladium hydroxide-carbon (20 mg) to a solution of benzyl [4-(2-{3-[1-(2-dimethylaminoethyl)piperidin-4-yl]-3-methylureido}pyridin-4-yloxy)-2-fluorophenyl]carbamate (51.3 mg) in tetrahydrofuran (5.0 ml), the mixture was stirred for 6 hours at room temperature under a hydrogen atmosphere. The catalyst was then filtered. The filtrate was concentrated to provide 3-[4-(4-amino-3-fluorophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea (ESI-MS (m/z): 431[M+H]+) as a pale yellow oil. This was dissolved in ethanol (0.68 ml), and then (1S)-(+)-10-camphorsulfonic acid (40.1 mg) was added thereto and the mixture was stirred for 5 minutes at room temperature. After adding 2-(4-fluorophenyl)acetyl isothiocyanate (0.2 M solution in toluene, 0.682 ml) thereto, the mixture was stirred at room temperature for 1 hour. After further adding 2-(4-fluorophenyl)acetyl isothiocyanate (0.2 M solution in toluene, 1.24 ml), the mixture was further stirred at room temperature for 1 hour. After still further adding 2-(4-fluorophenyl)acetyl isothiocyanate (0.2 M solution in toluene, 0.205 ml), stirring was continued at room temperature for 1 hour. Finally, additional 2-(4-fluorophenyl)acetyl isothiocyanate (0.2 M solution in toluene, 0.205 ml) was added and the mixture was stirred at room temperature for 3 hours. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by LC-MS (eluent; acetonitrile-water-trifluoroacetic acid system). Fractions containing the target compound were concentrated, and the residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. Hexane:ethyl acetate=5:1 was added to the resultant residue to precipitate a solid. The solid was filtered and washed with hexane, and then dried to provide the title compound (8.5 mg, 14.9%) as pale yellow powder.

reactant | benzyl [4-(2-{3-[1-(2-dimethylaminoethyl)piperidin-4-yl]-3-methylureido}pyridin-4-yloxy)-2-fluorophenyl]carbamate | 51.3 mg | CN(CCN1CCC(CC1)N(C(NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F)=O)C)C | C30H37FN6O4
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 20 mg | [OH-].[Pd+2].[OH-].[C]
product | 3-[4-(4-amino-3-fluorophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | NC1=C(C=C(OC2=CC(=NC=C2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1)F | C22H31FN6O2
